US05962479
N-[3,6-Dimethyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-4-yl]-N-ethyl-2,2,2-trifluoro-acetamide
To a solution of [3,6-dimethyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-4-yl]-ethylamine (200 mg, 0.7 mmol) in dry methylene chloride was added triethylamine (0.1 ml, 0.73 mmol) and trifluoroacetic anhydride (0.11 ml, 0.74 mmol) and stirred at room temperature for 2 hours. The reaction mixture was quenched with water and extracted with ethyl acetate. The organic layer was dried and concentrated to give the crude material. The crude material was purified through silica gel column chromatography using 25% hexane in chlorofor as eluent to give 225 mg (83%) of the title compound as white crystals, mp 110-111° C., 1H NMR (CDCl3) δ6.91 (s, 2H), 6.57 (s, 1H), 4.16 (m, 1H), 3.39 (m, 1H), 2.32 (s, 3H), 2.27 (s, 3H), 2.24 (s, 3H), 2.07 (s, 3H), 2.05 (s, 3H), 1.26 (t, 3H) ppm.

reactant | [3,6-dimethyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-4-yl]-ethylamine | 0.7 mmol, 200 mg | CC=1C(=NC(=CC1NCC)C)OC1=C(C=C(C=C1C)C)C | C18H24N2O
reactant | triethylamine | 0.73 mmol, 0.1 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.74 mmol, 0.11 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[3,6-Dimethyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-4-yl]-N-ethyl-2,2,2-trifluoro-acetamide | 225 mg, 83% | CC=1C(=NC(=CC1N(C(C(F)(F)F)=O)CC)C)OC1=C(C=C(C=C1C)C)C | C20H23F3N2O2
